US07700636B2
4-Fluoro-3-propionylbenzoic acid was synthesized by treating the commercial available 3-bromo-4-fluorobenzoic acid with 1-ethoxyprop-1-ene (6 equivalents), palladium acetate (0.03 equivalents), 1,3-Bis-(diphenylphosphino)-propane (0.06 equivalents) and potassium carbonate (1.2 equivalents) in DMF and water under microwave at 130° C. for 3 hours following with an acid treatment. 3-Ethyl-1H-indazole-5-carboxylic acid was obtained by treating 4-Fluoro-3-propionylbenzoic acid with hydrazine under microwave at 160° C. for half an hour. 5-(3-ethyl-1H-indazol-5-yl)-1,3,4-thiadiazol-2-amine was prepared in a manner similar to that shown in scheme 3 with POCl3 and thiosemicarbazide. MS (API-ES) m/z (%): 246 (100%, M++1).

reactant | 4-Fluoro-3-propionylbenzoic acid | FC1=C(C=C(C(=O)O)C=C1)C(CC)=O | C10H9FO3
reactant | hydrazine | NN | H4N2
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
product | 5-(3-ethyl-1H-indazol-5-yl)-1,3,4-thiadiazol-2-amine | C(C)C1=NNC2=CC=C(C=C12)C1=NN=C(S1)N | C11H11N5S
